US07148226B2
2-(4-bromo-2-fluorophenyl)propan-2-ol
A solution of methyl 4-bromo-2-fluorobenzoate (8.0 g, 34.3 mmol) in anhydrous Et2O (85 mL) was treated with MeMgBr (3.0 M in THF, 30 mL). The resulting solution was stirred at 25° C. for 3 hours before it was quenched by the addition of H2O (10 mL). The mixture was extracted with EtOAc (50 mL) three times and the combined organic extracts were washed with aqueous NH4Cl, brine, and dried over Na2SO4. The solvent was removed in vacuo and the residue was purified by flash column chromatography (0–25% EtOAc in hexanes) to give the desired product (7.2 g, 91% yield).

reactant | methyl 4-bromo-2-fluorobenzoate | 34.3 mmol, 8.0 g | BrC1=CC(=C(C(=O)OC)C=C1)F | C8H6BrFO2
reactant | MeMgBr | 3.0 M, 30 mL | C[Mg+].[Br-]
reactant | Et2O | 85 mL | CCOCC | C4H10O
product | 2-(4-bromo-2-fluorophenyl)propan-2-ol | 7.2 g, 91% yield | BrC1=CC(=C(C=C1)C(C)(C)O)F | C9H10BrFO
